US06936602B1
In a mixture of water ethanol toluene (1:1:10, v/v, 42.0 ml) were dissolved 4-(2-propoxy)ethoxyphenyl borate (920 mg) and methyl 7-bromo-1-(t-butoxycarbonyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate (1308 mg). To the solution was added potassium carbonate (1135 mg), and the mixture was stirred under argon atmosphere at room temperature for 30 minutes. To the mixture was added tetrakistriphenylphosphinepalladium (119 mg), and the mixture was heated to reflux under argon atmosphere for 14.5 hours. The mixture was diluted with ethyl acetate, and washed with water and saturated brine, and the organic layer was dried with anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified with silica gel column chromatography (50 g, hexane:ethyl acetate=9:1→3:1) to give methyl 1-(t-butoxycarbonyl)-7-[4-(2-propoxy)ethoxyphenyl]-2.3-dihydro-1H-1-benzazepine-4-carboxylate (1536 mg, 93%) as colorless oil.

reactant | 4-(2-propoxy)ethoxyphenyl borate | 920 mg | B(OC1=CC=C(C=C1)OCCOC(C)C)([O-])[O-]
reactant | methyl 7-bromo-1-(t-butoxycarbonyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 1308 mg | BrC=1C=CC2=C(C=C(CCN2C(=O)OC(C)(C)C)C(=O)OC)C1 | C17H20BrNO4
reactant | potassium carbonate | 1135 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water ethanol toluene | 42.0 ml | C1(=CC=CC=C1)C.C(C)O.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakistriphenylphosphinepalladium | 119 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 1-(t-butoxycarbonyl)-7-[4-(2-propoxy)ethoxyphenyl]-2.3-dihydro-1H-1-benzazepine-4-carboxylate | 1536 mg, 93% | C(C)(C)(C)OC(=O)N1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)OCCOC(C)C)C(=O)OC | C28H35NO6
